US04300942
Freshly prepared ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate (10.5 g.; 0.027 mol.) dissolved in 100 ml. of diethyl ether was added to a solution containing isopropylamine (6.7 g.; 0.11 mol.) in 50 ml. of diethyl ether. The reaction mixture was stirred for 2 hours at 25° C., then filtered. The filtrate was washed with 5% sodium bicarbonate, then water. The ether layer was separated, dried over sodium sulfate and concentrated in vacuo. To remove remaining traces of solvent, the residue was concentrated at 25° C. and 0.05 mm. and yielded ethyl-N-[(benzylthio)carbonyl]-N-[bis(isopropylamino)phosphinylmethyl]-glycinate (7.0 g.) as crystals having a melting point of 69°-72° C. and the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate | 0.027 mol, 10.5 g | C(C)OC(CN(CP(=O)(Cl)Cl)C(=O)SCC1=CC=CC=C1)=O | C13H16Cl2NO4PS
reactant | isopropylamine | 0.11 mol, 6.7 g | C(C)(C)N | C3H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl-N-[(benzylthio)carbonyl]-N-[bis(isopropylamino)phosphinylmethyl]-glycinate | 7.0 g | C(C)OC(CN(CP(=O)(NC(C)C)NC(C)C)C(=O)SCC1=CC=CC=C1)=O | C19H32N3O4PS
